US07435837B2
Treatment of 2-allyl-6-tert-butylphenol (12.5 g, 0.066 mol) with potassium carbonate (27.24 g, 0.197 mol), benzyl bromide (11.80 g, 0.069 mol), and tetrabutylammonium iodide (2.43 g, 6.57 mmol) generally according to the procedure described for Intermediate 1 provided 16.2 g (88%) of 1-allyl-2-(benzyloxy)-3-tert-butylbenzene as a colorless oil. Anal. calcd. for C20H240: C, 85.67; H, 8.63. Found: C, 86.27; H, 8.77.

reactant | 2-allyl-6-tert-butylphenol | 0.066 mol, 12.5 g | C(C=C)C1=C(C(=CC=C1)C(C)(C)C)O | C13H18O
reactant | potassium carbonate | 0.197 mol, 27.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.069 mol, 11.80 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium iodide | 6.57 mmol, 2.43 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 1-allyl-2-(benzyloxy)-3-tert-butylbenzene | 16.2 g, 88% | C(C=C)C1=C(C(=CC=C1)C(C)(C)C)OCC1=CC=CC=C1 | C20H24O
